US09376422B2
Compound 98: 5-chloro-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methyl-3-(propyl(tetrahydro-2H-pyran-4-yl)amino)benzamide
To a stirred solution of 3-(allyl(tetrahydro-2H-pyran-4-yl)amino)-5-chloro-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methylbenzamide (0.10 g) in MeOH (10 mL) was added 10% Pd/C (0.03 g) and the reaction stirred at room temperature under hydrogen (balloon pressure) for 2 h. On completion, the reaction mixture was filtered through celite and the filtrate was concentrated under reduced pressure to obtain crude solid which was purified by column chromatography to afford the title compound (0.02 g, 20%). LCMS: 445.25 (M+1)+; HPLC: 90.40% (@ 254 nm) (Rt; 5.609; Method: Column: YMC ODS-A 150 mm×4.6 mm×5μ; Mobile Phase: A; 0.05% TFA in water/B; 0.05% TFA in acetonitrile; Inj. Vol: 10 μL, Col. Temp.: 30° C.; Flow rate: 1.4 mL/min.; Gradient: 5% B to 95% B in 8 min, Hold for 1.5 min, 9.51-12 min 5% B); 1H NMR (DMSO-d6, 400 MHz) δ 11.47 (s, 1H), 8.23 (t, 1H), 7.19 (s, 1H), 6.93 (d, 1H, J=1.6 Hz), 5.88 (s, 1H), 4.24 (d, 2H, J=4.4 Hz), 3.83 (d, 2H, J=10.4 Hz), 3.22-3.25 (m, 2H), 2.94 (t, 2H, J=7.2 Hz), 2.88-2.90 (m, 1H), 2.18 (s, 3H), 2.15 (s, 3H), 2.10 (s, 3H), 1.56 (m, 4H), 1.14-1.23 (m, 2H), 0.75 (t, 3H, J=8 Hz).

reactant | 3-(allyl(tetrahydro-2H-pyran-4-yl)amino)-5-chloro-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methylbenzamide | 0.10 g | C(C=C)N(C=1C(=C(C(=O)NCC=2C(NC(=CC2C)C)=O)C=C(C1)Cl)C)C1CCOCC1 | C24H30ClN3O3
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd/C | 0.03 g | [Pd] | Pd
product | 5-chloro-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methyl-3-(propyl(tetrahydro-2H-pyran-4-yl)amino)benzamide | 0.02 g, 20% | ClC=1C=C(C(=C(C(=O)NCC=2C(NC(=CC2C)C)=O)C1)C)N(C1CCOCC1)CCC | C24H32ClN3O3
